US07244726B2
6-{1-[2-(2-Methylquinolin-5-yloxy)ethyl]piperidin-4-ylmethyl}-3,4-dihydro-2H-benzo[1,4]oxazine (E6)
The title compound (0.228 g, 54%) was prepared by reduction of 6-{1-[2-(2-methylquinolin-5-yloxy)ethyl]piperidin-4-ylmethyl}-4H-benzo[1,4]oxazin-3-one (0.431 g, 1 mmol) with lithium aluminium hydride as described in Example 3.

reactant | 6-{1-[2-(2-methylquinolin-5-yloxy)ethyl]piperidin-4-ylmethyl}-4H-benzo[1,4]oxazin-3-one | 1 mmol, 0.431 g | CC1=NC2=CC=CC(=C2C=C1)OCCN1CCC(CC1)CC=1C=CC2=C(NC(CO2)=O)C1 | C26H29N3O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 6-{1-[2-(2-Methylquinolin-5-yloxy)ethyl]piperidin-4-ylmethyl}-3,4-dihydro-2H-benzo[1,4]oxazine | 0.228 g, 54% | CC1=NC2=CC=CC(=C2C=C1)OCCN1CCC(CC1)CC=1C=CC2=C(NCCO2)C1 | C26H31N3O2
